US07223793B2
Preparation of 2-[3-(4-hydroxyphenyl)propionylamino]-4-methylsulfanyl butyric acid methyl ester
Following the same procedure of Example 4 except that 3-(4-hydroxyphenyl)propionic acid (1.0 g, 6.0 mmol) and methionine methyl ester (1.08 g, 6.6 mmol) were used, 1.7 g of the title compound was obtained. The compound was finally purified by silica gel column chromatography (column size: 25 mm×150 mm, silica gel 70-230 mesh, eluent: hexane/EtOAc (1/1)). The results of analyses of the compound are as follows:

reactant | 3-(4-hydroxyphenyl)propionic acid | 6.0 mmol, 1.0 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | methionine methyl ester | 6.6 mmol, 1.08 g | COC([C@@H](N)CCSC)=O | C6H13NO2S
product | 2-[3-(4-hydroxyphenyl)propionylamino]-4-methylsulfanyl butyric acid methyl ester | 1.7 g | COC(C(CCSC)NC(CCC1=CC=C(C=C1)O)=O)=O | C15H21NO4S
